US05521179
2-[2-Oxo-6-phenyl-3-(3-phenylsulfonylureido)-1,2-dihydro-1-pyridyl]-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide.
To 2-(3-amino-2-oxo-6-phenyl-1,2-dihydro-1-pyridyl)-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide (0.5 g) in dichloromethane (40 mL) was added benzenesulfonyl isocyanate (0.23 g), and the resulting solution was allowed to stir for 1 h. The solvent was evaporated and the product was purified by chromatography to provide the title compound (0.7 g); chromatography solvent: methanol:dichloromethane (5:95); TLC: Rf =0.6, methanol:dichloromethane (10:90); MS: m/z=579(M+1), 577(M-1) by FAB.

reactant | 2-(3-amino-2-oxo-6-phenyl-1,2-dihydro-1-pyridyl)-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide | 0.5 g | NC=1C(N(C(=CC1)C1=CC=CC=C1)CC(=O)NC(C(C(F)(F)F)=O)C(C)C)=O | C19H20F3N3O3
reactant | benzenesulfonyl isocyanate | 0.23 g | C1(=CC=CC=C1)S(=O)(=O)N=C=O | C7H5NO3S
solvent | dichloromethane | 40 mL | ClCCl | CH2Cl2
product | 2-[2-Oxo-6-phenyl-3-(3-phenylsulfonylureido)-1,2-dihydro-1-pyridyl]-N-(3,3,3-trifluoro-1-isopropyl-2-oxopropyl)acetamide | 0.7 g | O=C1N(C(=CC=C1NC(=O)NS(=O)(=O)C1=CC=CC=C1)C1=CC=CC=C1)CC(=O)NC(C(C(F)(F)F)=O)C(C)C | C26H25F3N4O6S
